US04585781
5-Bromo-1H-tetrazole-1-ethanol
5-Bromo-1H-tetrazole-1-ethanol acetate (ester) (40 g) and 2N hydrochloric acid (216 ml) were stirred at room temperature for 22 h.

reactant | 5-Bromo-1H-tetrazole-1-ethanol acetate | 40 g | C(C)(=O)OCCN1N=NN=C1Br | C5H7BrN4O2
reactant | hydrochloric acid | 2N, 216 ml | Cl | ClH
product | 5-Bromo-1H-tetrazole-1-ethanol | BrC1=NN=NN1CCO | C3H5BrN4O
